US07847100B2
A solution of ethyl 3-(5-((R)-2-tert-butoxycarbonylamino-1-phenylpropan-2-yl)-1,3,4-oxadiazol-2-yl)-5-(1-cyanocyclopentyl)benzoate (0.17 g, 0.31 mmol) and LiOH.H2O (65 mg, 1.55 mmol) in 8.1 mL THF and 3.1 mL H2O was stirred at rt overnight. The reaction was concentrated, diluted with H2O, made acidic with 10% citric acid solution and extracted with EtOAc. The combined organic layers were washed with brine. Drying and solvent evaporation gave 3-(5-((R)-2-tert-butoxycarbonylamino-1-phenylpropan-2-yl)-1,3,4-oxadiazol-2-yl)-5-(1-cyanocyclopentyl)benzoic acid. 1H NMR (400 MHz, CDCl3) δ 8.62 (bs, 1H), 8.36 (d, J=1.4 Hz, 2H), 7.28 (m, 3H), 7.09 (d, J=5.7 Hz, 2H), 5.22 (bs, 1H), 3.61 (d, J=13.4 Hz, 1H), 3.43 (m, 1H), 2.60 (m, 2H), 2.20-2.01 (m, 6H), 1.75 (s, 3H), 1.42 (s, 9H).

reactant | ethyl 3-(5-((R)-2-tert-butoxycarbonylamino-1-phenylpropan-2-yl)-1,3,4-oxadiazol-2-yl)-5-(1-cyanocyclopentyl)benzoate | 0.31 mmol, 0.17 g | C(C)(C)(C)OC(=O)N[C@@](CC1=CC=CC=C1)(C)C1=NN=C(O1)C=1C=C(C(=O)OCC)C=C(C1)C1(CCCC1)C#N | C31H36N4O5
reactant | LiOH.H2O | 1.55 mmol, 65 mg | O[Li].O
solvent | THF | 8.1 mL | C1CCOC1 | C4H8O
solvent | H2O | 3.1 mL | O | H2O
product | 3-(5-((R)-2-tert-butoxycarbonylamino-1-phenylpropan-2-yl)-1,3,4-oxadiazol-2-yl)-5-(1-cyanocyclopentyl)benzoic acid | C(C)(C)(C)OC(=O)N[C@@](CC1=CC=CC=C1)(C)C1=NN=C(O1)C=1C=C(C(=O)O)C=C(C1)C1(CCCC1)C#N | C29H32N4O5
